US07101886B2
Starting with N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-N-methyl-acetamide (0.195 g, 0.863 mmol) and 3-piperazin-1-yl-1H-indazole hydrochloride (0.309 g, 1.24 mmol) and following the procedure as outlined in Example 501, N-(4-{2-[4-(1H-indazol-3-yl)-piperazin-1-yl]-ethyl}-2-methyl-phenyl)-N-methyl-acetamide was obtained as its hydrochloride salt (0.152 g, 0.388 mmol). Yield=45%. 100% purity @ 254 nm; LCMS (APCI): 392.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 12.19 (s, 1H), 10.57 (bs, 1H), 7.79 (d, J=8.91 Hz, 1H), 7.37 (d, J=8.91 Hz, 1H), 7.32–7.24 (m, 2H), 7.24–7.13 (m, 2H), 6.99 (t, J=6.93 Hz, 1H), 3.97 (bd, J=9.77 Hz, 2H), 3.64 (bm, 2H), 3.48 (bs, DMSO-H2O), 3.44–3.24 (m, 6H), 3.10–3.02 (m, 2H), 3.00 (s, 3H), 2.47 (DMSO), 2.15 (s, 3H), 1.60 (s, 3H).

reactant | N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-N-methyl-acetamide | 0.863 mmol, 0.195 g | ClCCC1=CC(=C(C=C1)N(C(C)=O)C)C | C12H16ClNO
reactant | 3-piperazin-1-yl-1H-indazole hydrochloride | 1.24 mmol, 0.309 g | Cl.N1(CCNCC1)C1=NNC2=CC=CC=C12
product | N-(4-{2-[4-(1H-indazol-3-yl)-piperazin-1-yl]-ethyl}-2-methyl-phenyl)-N-methyl-acetamide | Yield=45% | N1N=C(C2=CC=CC=C12)N1CCN(CC1)CCC1=CC(=C(C=C1)N(C(C)=O)C)C | C23H29N5O
